US04039316
20.1 g of diketene were added to a solution of 35 g of m-aminoacetanilide in 150 ml of benzene and after stirring for an hour, the mixture was evaporated to dryness under reduced pressure. The residue was added to acetone and the mixture was filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was added to ether. The mixture was vacuum filtered and the precipitate was washed and dried to obtain 50 g of m-acetamido-acetylacetanilide melting at 107° C. which was used as is for the next step.

reactant | diketene | 20.1 g | C=C1CC(=O)O1 | C4H4O2
reactant | m-aminoacetanilide | 35 g | NC=1C=C(NC(C)=O)C=CC1 | C8H10N2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | m-acetamido-acetylacetanilide | 50 g | C(C)(=O)NC=1C=C(NC(CC(C)=O)=O)C=CC1 | C12H14N2O3
